US09255107B2
Preparation of 3-trifluoromethyl-5-(4-methylimidazol-1-yl)-N-[3-(2-(5-trifluoromethyl-1H-imidazol-2-yl)pyridin-5-yl)ethynyl-4-fluorophenyl]-benzamide
The title compound was prepared using 3-trifluoromethyl-5-(4-methylimidazol-1-yl)benzoyl chloride, 3-iodo-4-fluoroaniline, trimethylsilylacetylene and 2-(5-trifluoromethylimidazol-2-yl)-5-bromopyridine as raw materials, according to the method described in Example 3.

reactant | 3-trifluoromethyl-5-(4-methylimidazol-1-yl)benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=C(C1)N1C=NC(=C1)C)(F)F | C12H8ClF3N2O
reactant | 3-iodo-4-fluoroaniline | IC=1C=C(N)C=CC1F | C6H5FIN
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | 2-(5-trifluoromethylimidazol-2-yl)-5-bromopyridine | FC(C1=CN=C(N1)C1=NC=C(C=C1)Br)(F)F | C9H5BrF3N3
product | 3-trifluoromethyl-5-(4-methylimidazol-1-yl)-N-[3-(2-(5-trifluoromethyl-1H-imidazol-2-yl)pyridin-5-yl)ethynyl-4-fluorophenyl]-benzamide | FC(C=1C=C(C(=O)NC2=CC(=C(C=C2)F)C#CC=2C=CC(=NC2)C=2NC(=CN2)C(F)(F)F)C=C(C1)N1C=NC(=C1)C)(F)F | C29H17F7N6O
